* C:\users\harshith\Desktop\VSD_Internship\Vsd_Comparator_internship\Circuits_spicefiles\comparator_prog_hyst_internship.asc
M1 N001 Vip N003 0 sky130_fd_pr__nfet_01v8
M2 vdd N001 N002 vdd sky130_fd_pr__pfet_01v8
M3 N001 N001 vdd vdd sky130_fd_pr__pfet_01v8
M4 N003 Vim N002 0 sky130_fd_pr__nfet_01v8
M5 vdd N002 V02 vdd sky130_fd_pr__pfet_01v8
M6 V02 N003 0 0 sky130_fd_pr__nfet_01v8
M7 vdd V02 Vout vdd sky130_fd_pr__pfet_01v8
M8 Vout V02 0 0 sky130_fd_pr__nfet_01v8
M9 0 N003 N003 0 sky130_fd_pr__nfet_01v8
M10 N003 N003 0 0 sky130_fd_pr__nfet_01v8
M11 N001 Vout N004 0 sky130_fd_pr__nfet_01v8
M12 N004 V02 N002 0 sky130_fd_pr__nfet_01v8
M13 0 N005 N005 0 sky130_fd_pr__nfet_01v8
M14 N004 N005 0 0 sky130_fd_pr__nfet_01v8
I1 vdd N005 47n
I2 vdd N003 1µ
V1 vdd 0 5
V2 Vip 0 0m
V3 Vim 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 10n
.lib "../circuits_cells/design/sky130_fd_pr/models/sky130.lib.spice" tt
.param temp=27
.backanno
.end
